US04824892
1 g of trifluoromethanesulfonic acid was added to a solution of 55.2 g (0.1 mole) of 1,3-bis-(4-benzoyl-3-hydroxyphenoxy)-prop-2-yl cyanoacetate in 300 ml of acetone, and the solution was heated for 3 hours at a temperature of 56° C. After cooling to room temperature, the resulting crystalline precipitate was filtered off with suction and recrystallized from acetone. After drying, 51 g (86 percent of theory) of 1,3-bis-(4-benzoyl-3-hydroxyphenoxy)-prop-2-yl 2-cyano-3,3-dimethylacrylate were obtained in the form of colorless crystals having a melting point of 145° to 147° C. and a purity of 99 percent (HPLC). The structure of the compound obtained was confirmed by UV, IR and NMR spectra.

reactant | trifluoromethanesulfonic acid | 1 g | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | 1,3-bis-(4-benzoyl-3-hydroxyphenoxy)-prop-2-yl cyanoacetate | 0.1 mole, 55.2 g | C(#N)CC(=O)OC(COC1=CC(=C(C=C1)C(C1=CC=CC=C1)=O)O)COC1=CC(=C(C=C1)C(C1=CC=CC=C1)=O)O | C32H25NO8
reactant | acetone | 300 ml | CC(=O)C | C3H6O
product | 1,3-bis-(4-benzoyl-3-hydroxyphenoxy)-prop-2-yl 2-cyano-3,3-dimethylacrylate | 51 g, 86 percent | C(#N)C(C(=O)OC(COC1=CC(=C(C=C1)C(C1=CC=CC=C1)=O)O)COC1=CC(=C(C=C1)C(C1=CC=CC=C1)=O)O)=C(C)C | C35H29NO8
